US06489322B1
e) N-(2,3,4,5-Tetrahydro-1,4-benzoxazepin-7-yl)-2-thiophenecarboximidamide
To 2,3,4,5-tetrahydro-1,4-benzoxazepin-7-ylamine (3.67 g, 18 mmol) in DMF (60 ml) was added 2-thiophenecarboximidothioic acid, methyl ester, hydroiodide (5.52 g, 19 mmol). The mixture was heated to 50° C. for 24 h. The mixture was poured into water (50 ml), then basic water (150 ml) and was allowed to stir for 1 h. The solids were collected by filtration. The solid was dissolved in hot ethyl acetate, filtered, and diluted with hexane. The solids were collected by filtration (3.13 g, 64%), MS m/Z 274 [M+H]+.

reactant | 2,3,4,5-tetrahydro-1,4-benzoxazepin-7-ylamine | 18 mmol, 3.67 g | O1CCNCC2=C1C=CC(=C2)N | C9H12N2O
reactant | 2-thiophenecarboximidothioic acid, methyl ester, hydroiodide | 19 mmol, 5.52 g | I.S1C(=CC=C1)C(=N)SC
reactant | water | 50 ml | O | H2O
reactant | water | 150 ml | O | H2O
solvent | DMF | 60 ml | CN(C)C=O | C3H7NO
product | N-(2,3,4,5-Tetrahydro-1,4-benzoxazepin-7-yl)-2-thiophenecarboximidamide | O1CCNCC2=C1C=CC(=C2)NC(=N)C=2SC=CC2 | C14H15N3OS
